US06229011B1
N-[(2-Acetyl-6-methylphenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine was prepared in 38% yield from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-acetyl-6-methylbenzoic acid using the general procedure described in example 3. HR MS: Obs. mass, 547.0579. Calcd. mass, 547.0594 (M+Na).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-acetyl-6-methylbenzoic acid | C(C)(=O)C1=C(C(=O)O)C(=CC=C1)C | C10H10O3
product | N-[(2-Acetyl-6-methylphenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine | 38% yield | C(C)(=O)C1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)C(=O)O | C26H22Cl2N2O5
